US04965270
(a) 4-Allyloxyamino-6-chloro-2,5-diformamidopyrimidine
A mixture of 4,6-dichloro-2,5-diformamidopyrimidine (3.75 g, 16 mmol), O-allylhydroxylamine hydrochloride (1.8 g, 16.4 mmol) and triethylamine (9.1 ml, 66 mmol) in dioxan (80 ml) was stirred at 100° C. for 6 hours. The cooled reaction mixture was filtered and evaporated to dryness under reduced pressure. The residue was on silica gel (eluted with chloroform chromatographed methanol, 10:1) and the product recrystallised from chloroform-methanol affording the title compound (2.1 g, 48%), m.p. 170°-181° C. IR: υmax (KBr) 3240, 1705, 1650, 1590, 1570, 1495, 1465, 1420 cm-1. 1H NMR: δH [(CD3)2SO] 4.37 (2H, d, J=6 Hz, CH2ON), 5.28 (2H, m, CH=CH2), 6.00 (1H, m, CH=CH2), 8.17 (1H, s, CHO), 9.30 (1H, s, CHO), 9.45 (1H, br.s, NH), 10.87 (2H, br.s, 2×NH). Found: C, 39.64; H, 3.49; N, 25.34%, M+ 271.0469. C9H10ClN5O3 requires C, 39.79; H, 3.71; N, 25.78%, M+ 271.0469.

reactant | 4,6-dichloro-2,5-diformamidopyrimidine | 16 mmol, 3.75 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | O-allylhydroxylamine hydrochloride | 16.4 mmol, 1.8 g | Cl.C(C=C)ON
reactant | triethylamine | 66 mmol, 9.1 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | 4-Allyloxyamino-6-chloro-2,5-diformamidopyrimidine | C(C=C)ONC1=NC(=NC(=C1NC=O)Cl)NC=O | C9H10ClN5O3
